US06271249B1
4-(5-Chloro-2-methoxyphenyl)-5-[4-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-amine
N-(5-Chloro-2-methoxyphenyl)-4-(trifluoromethyl)benzene carbohydrazonamide (1.5 g, 4.36 mmol) was dissolved in 1,4-dioxane (7 ml) and cyanogen bromide (475 mg, 4.48 mmol) was added. A solution of sodium bicarbonate (380 mg in 7 ml of water) was added dropise at room temperature and the reaction mixture was stirred for 3 h. An additional 7 ml of water was added to the heterogenous reaction mixture before filtration and rinse with water. Recrystallization from acetonitrile gave 922 mg (57.3%) mp 247-248° C.; IR(KBr, υ=cm−1) 3416, 3076, 3052, 1652, 1561, 1504, 1322, 1110; 1 H NMR (300 MHz, DMSO-d6) δ 3.60 (3H, s), 5.92 (2H, s), 7.22 (1H, d, J=9.5 Hz), 7.47 (2H, d, 8.3 Hz), 7.54-7.57 (2H, m), 7.67 (1H, d, J=8.4 Hz).; MS(DCl)m/z: 369(MH+). Anal. calcd. for C16H12ClF3N4O: C, 52.12; H, 3.28; N, 15.19. Found: C, 52.19; H, 3.20; N, 15.29.

reactant | N-(5-Chloro-2-methoxyphenyl)-4-(trifluoromethyl)benzene carbohydrazonamide | 4.36 mmol, 1.5 g | ClC=1C=CC(=C(C1)NC(=NN)C1=CC=C(C=C1)C(F)(F)F)OC | C15H13ClF3N3O
reactant | cyanogen bromide | 4.48 mmol, 475 mg | N#CBr | CBrN
reactant | sodium bicarbonate | 7 ml, 380 mg | C([O-])(O)=O.[Na+]
reactant | KBr | [K+].[Br-]
solvent | 1,4-dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | water | 7 ml | O | H2O
product | 4-(5-Chloro-2-methoxyphenyl)-5-[4-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-amine | ClC=1C=CC(=C(C1)N1C(=NN=C1C1=CC=C(C=C1)C(F)(F)F)N)OC | C16H12ClF3N4O
